US07919519B2
Synthesized according to Scheme B2 and general procedure F using ethyl 1-(4-bromo-3-fluorobenzyl)azetidine-3-carboxylate (0.150 g, 0.474 mmol) and 6-benzylbenzofuran-2-ylboronic acid (0.155 g, 0.617 mmol) to give ethyl 1-((4-(6-benzylbenzofuran-2-yl)-3-fluorophenyl)methyl)azetidine-3-carboxylate. MS (ESI) m/z: Calculated: 443.2; Observed: 444.1 (M++1).

reactant | ethyl 1-(4-bromo-3-fluorobenzyl)azetidine-3-carboxylate | 0.474 mmol, 0.150 g | BrC1=C(C=C(CN2CC(C2)C(=O)OCC)C=C1)F | C13H15BrFNO2
reactant | 6-benzylbenzofuran-2-ylboronic acid | 0.617 mmol, 0.155 g | C(C1=CC=CC=C1)C1=CC2=C(C=C(O2)B(O)O)C=C1 | C15H13BO3
product | ethyl 1-((4-(6-benzylbenzofuran-2-yl)-3-fluorophenyl)methyl)azetidine-3-carboxylate | C(C1=CC=CC=C1)C1=CC2=C(C=C(O2)C2=C(C=C(C=C2)CN2CC(C2)C(=O)OCC)F)C=C1 | C28H26FNO3
